US08440326B2
Synthesis of N-phenyltriphenylen-2-amine
Palladium acetate (0.01 g, 0.06 mmol) and 1.0 M tri(t-butyl)phosphine solution in toluene (0.02 mL, 0.02 mmol) were added to a three-neck flask under nitrogen. 100 mL of toluene was then added. The solution was stirred under nitrogen until the color disappeared. To the solution was added 2-bromotriphenylene (2 g, 6.5 mmol), sodium tert-butoxide (0.94 g, 9.8 mmol), and aniline (1.8 g, 20 mmol) in sequence. The mixture was then heated up to reflux overnight. After cooled to room temperature, the mixture was filtered through a celite bed and washed thoroughly with dichloromethane. The product was purified by column chromatography using 1:7 dichloromethane and hexanes as eluent. 0.8 g of desired product was obtained after purification.

reactant | tri(t-butyl)phosphine | 1.0 M | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | 2-bromotriphenylene | 6.5 mmol, 2 g | BrC1=CC=2C3=CC=CC=C3C3=CC=CC=C3C2C=C1 | C18H11Br
reactant | sodium tert-butoxide | 9.8 mmol, 0.94 g | CC(C)([O-])C.[Na+]
reactant | aniline | 20 mmol, 1.8 g | NC1=CC=CC=C1 | C6H7N
catalyst | Palladium acetate | 0.06 mmol, 0.01 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | toluene | 0.02 mmol, 0.02 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | N-phenyltriphenylen-2-amine | 0.8 g | C1(=CC=CC=C1)NC1=CC=2C3=CC=CC=C3C3=CC=CC=C3C2C=C1 | C24H17N
